US04978792
A process wherein M-nitrobenzonitrile is subjected to high pressure catalytic reduction with Raney nickel catalyst to obtain m-aminobenzylamine (yield: 49%) (J.R. Griffith et al., NRL Report 6439)).

reactant | M-nitrobenzonitrile | [N+](=O)([O-])C=1C=C(C#N)C=CC1 | C7H4N2O2
catalyst | Raney nickel | [Ni] | Ni
product | m-aminobenzylamine | yield: 49% | NC=1C=C(CN)C=CC1 | C7H10N2
